US06617339B1
3-(3-Fluoro-4-(imidazol-1-yl)phenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one
3-(3-Fluoro-4-(imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one (WO 96/23788; 280 mg, 1 mmol), 3-hydroxyisoxazole (94 mg, 1.1 mmol), and triphenylphosphine (330 mg, 1.25 mmol) were suspended by stirring in dry tetrahydrofuran (10 ml) under nitrogen at ambient temperature. Diisopropylazodicarboxylate (308 mg, 1.5 mmol) was added dropwise over 10 minutes. The suspension dissolved, and stirring was continued at the same temperature for 2 hours. The mixture was evaporated to dryness, and the residue purified by chromatography on a 20 g silica Mega Bond Elut® columns, eluting with a gradient increasing in polarity from 50 to 100% EtOAc in isohexane. Relevant fractions were combined and evaporated to give the desired product (206 mg). MS (ESP): 345 (MH+) for C16H13FN4O4.

reactant | 3-(3-Fluoro-4-(imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one | 1 mmol, 280 mg | FC=1C=C(C=CC1N1C=NC=C1)N1C(O[C@H](C1)CO)=O | C13H12FN3O3
reactant | 3-hydroxyisoxazole | 1.1 mmol, 94 mg | OC1=NOC=C1 | C3H3NO2
reactant | triphenylphosphine | 1.25 mmol, 330 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 1.5 mmol, 308 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(3-Fluoro-4-(imidazol-1-yl)phenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one | 206 mg | FC=1C=C(C=CC1N1C=NC=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O | C16H13FN4O4
